Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ETOH related Seizure 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ h/o ETOH abuse and seizures in setting of ETOH 
w/drawal (never admitted to ICU) bought to ED s/p episode of 
seizure and ETOH withdrawal. ___ endorses drinking ___ pints 
Gin daily as well as occasional beer, last drink at about 8 pm 
the day prior to admission.  He reports at approximately noon 
the day of admission he was lying in his bed when he had a 
seizure and fell forward to the floor hitting his head.  He does 
not remember the actual seizure but awoke to find that his 
mother had called EMS. He denies biting his tongue but does note 
he had been incontinent of urine. He states prior to the episode 
he was feeling ill with fatigue and nausea, abdominal pain, but 
no vomiting and ___ diarrhea. He denied preceding 
shortness of breath, palpitations, fevers or chest pain. 
Afterwards he reports feeling fatigued as well as a bit 
nauseous. He has had several similar seizures in the past, last 
2 weeks ago all in the setting of alcohol withdrawal and in most 
cases also associated with preceding nausea. He states that the 
seizures usually subside after a few days of not drinking. He 
had been on phenytoin last ___ yrs ago for about a month 
prescribed by his PCP but has not taken this medication since. 
.
In terms of his alcohol use the ___ reports he has been 
drinking 2 pints of gin a day for the past several years.  He 
states every few weeks he will attempt stopping for 1 day and 
generally will have a seizure. He did attend an ___ rehab 
a few years ago at which time he was able to stop drinking for a 
few months. He now states he is interested in quitting.  
.
In the ED, VS were T 96, HR 108, BP 143/98, RR 20, O2 98%.  On 
exam he was A&Ox3.  On arrival, he received ativan 1mg iv, 
valium 5mg po, and bannana bag.  His labs were notable for HCO3 
of 14 and ETOH level of 20.  While in the ED, his CIWA scale was 
less then 10. CT head and ___ showed no acute processes.  
.  
Currently, the ___ notes fatigue as well as mild nausea and 
a L frontal HA associated with where he hit his head on falling. 
He also notes that it feels as though his hands are "clamping 
shut" and he has to pry them open intermittently. He denies any 
visual changes, auditory or visual hallucinations.   
.  
ROS: Denies fever, chills, night sweats, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, vomiting, constipation, dysuria.  
 
Past Medical History:
ETOH abuse
seizure in the setting of withdrawal
 
Social History:
___
Family History:
 Denies family history of seizure disorders otherwise 
___  
 
Physical Exam:
ADMISSION EXAM
VS - Temp 97.7F, BP 190/105, HR 79, R 20 , ___ 100 % RA  
GENERAL - drowsy appearing man in NAD, comfortable, appropriate  

HEENT - NC, palpable 5 cm by 5 cm area of tenderness to 
palpation at left frontal region, PERRL ___ bilaterally, 
EOMI, mild conjunctival injection, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI ___, RRR, no MRG, nl ___  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, speech fluent, CNs ___ grossly intact, 
mild tremor in bilateral hands, normal tone, muscle strength ___ 
throughout, no pronator drift, sensation grossly intact 
throughout, DTRs 2+ and symmetric, slow but coordinated on 
finger nose finger testing, toes downgoing bilaterally on 
babinski. 
.
DISCHARGE EXAM
VS - Temp 97.7, BP 147/95, HR 79, R 20 , ___ 100 % RA  
GENERAL - drowsy appearing man in NAD, comfortable, appropriate  

HEENT - NC, palpable PERRL ___ bilaterally, EOMI, mild 
conjunctival injection, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI ___, RRR, no MRG, nl ___  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, speech fluent, CNs ___ grossly intact, 
mild tremor in bilateral hands, normal tone, muscle strength ___ 
throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric 

 
Pertinent Results:
LABORATORY DATA 
CBC
___ 02:00PM BLOOD ___ 
___ Plt ___
___ 05:05AM BLOOD ___ 
___ Plt ___
___ 06:15AM BLOOD ___ 
___ Plt ___
.
CHEMISTRY
___ 02:00PM BLOOD ___ 
___
___ 05:05AM BLOOD ___ 
___
___ 06:15AM BLOOD ___ 
___
.
LFTs
___ 05:05AM BLOOD ___ LD(LDH)-262* ___ 
___
.
HEME
___ 05:05AM BLOOD ___ TH
.
HEPATITIS 
___ 05:05AM BLOOD ___ HAV 
___ IgM ___
.
TOXICOLOGY
___ 02:00PM BLOOD ___ 
___
.
VBG
___ 09:16PM BLOOD ___ 
___ Base ___
.
STUDIES 
EKG ___ rhythm. Indeterminate axis. Mild J point and 
ST segment elevation
in leads ___. Other ___ wave abnormalities. Since the 
previous tracing
of ___ the axis is now indeterminate. ___ wave 
abnormalities are more
prominent. Clinical correlation is suggested.
.
Chest Xray (___):
There is no focal consolidation to suggest pneumonia. There is 
no pleural
effusion or pneumothorax. The pleural surfaces are smooth, and 
the hilar and cardiomediastinal contours are normal. There is no 
pulmonary vascular
congestion or edema. However, there is increased density in the 
right lower
paraspinal region, projecting behind the heart, with a 
___ convex
right lateral margin, of indeterminate etiology.
 
IMPRESSION:
 
1. No evidence of pneumonia.
 
2. Atypical right lower paraspinal density, which may represent 
a tortuous
descending aorta, though other etiologies including paraspinal 
masses cannot
be excluded. Comparison with prior imaging would be helpful if 
available
elsewhere. Alternatively, this could be further evaluated with a 
___
chest CT.
.
Chest CT w/ contrast (___)
1. No spinal or paraspinal mass. Prominent osteophyte at the 
right ___
costovertebral junction corresponds to the abnormality noted on 
recent chest
radiograph.
 
2. 2 mm right upper lung nodule for which no further follow up 
is necessary
if the ___ is at low risk for malignancy. If the ___ is 
at high risk
for malignancy, 12 month follow up CT is recommended.
 
3. ___ left thyroid lobe nodule, for which ___ 
ultrasound
evaluation is recommended if this has not been previously 
characterized.
 
4. Borderline fatty deposition in the liver.

CT Head w/o contrast (___):
There is no intracranial hemorrhage. There is no parenchymal 
edema, mass
effect, or CT evidence of territorial infarct. Ventricles and 
sulci are of
greater than expected prominence for the ___ age, 
suggesting atrophy.
There is no shift of midline structures, and the basal cisterns 
are patent.
There is left frontotemporal soft tissue swelling, without 
underlying
fracture. There are no lytic or sclerotic osseous lesions. 
Visualized
paranasal sinuses and mastoids are normally aerated.
 
IMPRESSION: No intracranial hemorrhage. Mild global atrophy. 
Left
frontotemporal scalp soft tissue swelling. 
.
CT ___ w/o contrast (___):
There is no cervical spine fracture. Vertebral bodies are 
preserved in
height, and the alignments are normal. The atlantoaxial and 
___
articulations are maintained. There is no prevertebral soft 
tissue swelling.
 
There is multilevel degenerative change, though this is 
characterized
primarily by anterior osteophyte formation and results in only 
mild central
canal stenosis. Similarly, neural foraminal narrowing is only 
mild in
severity.
 
Included soft tissues are unremarkable. Calcification of the 
nuchal ligament
is noted. The thyroid is homogeneous, and there is no 
adenopathy.
Visualized lung apices are clear.
 
IMPRESSION: No cervical spine fracture or traumatic 
malalignment. Multilevel
degenerative change, without critical canal narrowing.
 
Brief Hospital Course:
___ yo male with a history of ETOH withdrawal seizures presents 
after a seizure today after abstaining from alcohol for one day, 
labs notable for an anion gap acidosos.   
.
# ETOH withdrawal, seizure: Pt has history of several seizures 
in the past all in the setting of alcohol withdrawal with 
similar presentaions. Loss of consciousness and incontinence of 
urine were both suggestive of a true seizure.  He had no history 
of unprovoked seizures to suggest a seizure disorder.  Head CT 
was not concerning for intracranial lesions. There was no 
signs/symptoms on exam to suggest CNS infection. Both EKG and 
telemetry were unremarkable.  The ___ was given IV thiamine 
and folate and maintained on a CIWA scale in addition to 
scheduled valium BID. He did not experience any seizures while 
admitted. On HD 1 scheduled valium was discontinued and the 
___ continued to do well without evidence of seizure. At the 
time of discharge he also had improvement in his hand tremor.  
However he was discharged with a short course of PO valium PRN 
should tremor recur.  
.
# Hypertension- ___ was hypertensive to SBP of 190 on 
admission in the setting of withdrawal.  He was treated 
intermittently with PO labetalol with improvement in blood 
pressure. Blood pressure improved as withdrawal symptoms 
improved. 
.
# Alcohol/ Cocaine abuse- Pt has long history of alchohol abuse 
as documented above.  He had one unsuccessful trip to ___ 
rehab several years ago.  On this admission the ___ endorsed 
a desire to quit drinking. SW was consulted and provided the 
___ with materials related to rehabilitation centers as well 
as sources of support.
.
# Low Bicarb- ___ noted to have a bicarb of 14 on admission 
concerning for a metobolic acidosis.  However VBG showed a 
normal pH and Bicarb normalized without intervention.
.
Macrocytosis- ___ noted to have an elevated MCV (100) in the 
setting of extensive alcohol use.  Folate were given as above. 
Folate and B12 levels indicated he was not deficient. 
.    
#Elevated LFTs- ___ noted to have mildly elevated LFTs.  
This is possible related to alcohol use however AST/ALT ratio 
not the expected pattern. CT was suggestive of fatty liver 
infiltration.  Hepatitis serologies were negative, ___ with 
no hepatotoxic medications.  Recommend ___ f/u with PCP 
regarding monitoring of LFTs.
.
# Paraspinal Mass- Chest Xray initially concerning for 
paraspinal mass however f/u CT did not show a mass.  
. 
# Thyroid nodule- Noted incidently on CT done to evaluate 
possible paraspinal mass as above.  Recommend ___ have 
thyroid US as an outpatient.
.
#Transitional Issues:
- ___ remained full code throughout this hospitalization
- ___ will ___ with his PCP
- ___ should have US as an outpatient to evaluate the 
thyroid nodule seen on CT. 
 
Medications on Admission:
Folic Acid 
Multivitamin 
 
Discharge Medications:
1. diazepam 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for 2 days: take 1 pill every 6 hours as needed 
for tremor.
Disp:*8 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal seizures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you while you were admitted to 
___.  As you know you were 
admitted to the hospital after you had a seizure. You hit your 
head when you fell but a CT of your head was not concerning.  
Your seizure occurred because you were withdrawing from alcohol. 
 You were given medications to prevent seizures from occurring 
while you were withdrawing.  

You expressed a desire to stop drinking.  We provided you with 
information regarding rehab facilities that can help in your 
recovery.

No changes were made to your medications, but we did provide you 
with some Valium for you to take if you begin to have a tremor.

You had a CT of your chest which showed a nodule in your 
thyroid. You should see your doctor about having an ___ 
done to evaluate this further.  

Please feel free to call if you have any questions or concerns
 
Followup Instructions:
___